US06177443B1
[4-(4-Chlorophenyl)4,5,6,7-tetrahydro-thieno[3,2-c]pyridin-5-yl]-[4-(2-dimethylaminoethoxy)phenyl]-methanone, (compound No. 37)
Similarly as described in example 22 using a solution of 4-(4-chlorophenyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine in N,N-dimethylformamide (0.375 M, 0.4 ml, 0.15 mmol), a suspension of 4-(2-dimethylaminoethoxy)benzoic acid hydrochloride in N,N-dimethylformamide (0.375 M, 0.4 ml, 0.15 mmol), triethylamine (42 ul), and 0.25 ml of a suspension of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride in dichloromethane (1.73 g in 8.3 ml) affords the title compound.

reactant | 4-(4-chlorophenyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | ClC1=CC=C(C=C1)C1NCCC2=C1C=CS2 | C13H12ClNS
reactant | N,N-dimethylformamide | 0.15 mmol, 0.375 M, 0.4 ml | CN(C=O)C | C3H7NO
reactant | 4-(2-dimethylaminoethoxy)benzoic acid hydrochloride | Cl.CN(CCOC1=CC=C(C(=O)O)C=C1)C
reactant | N,N-dimethylformamide | 0.15 mmol, 0.375 M, 0.4 ml | CN(C=O)C | C3H7NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
solvent | triethylamine | 42 ul | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8.3 ml, 1.73 g | ClCCl | CH2Cl2
product | [4-(4-Chlorophenyl)4,5,6,7-tetrahydro-thieno[3,2-c]pyridin-5-yl]-[4-(2-dimethylaminoethoxy)phenyl]-methanone | ClC1=CC=C(C=C1)C1N(CCC2=C1C=CS2)C(=O)C2=CC=C(C=C2)OCCN(C)C | C24H25ClN2O2S
